US05977134
Step 1: N-(2,3-dimethylphenyl) 1,2,3,4-tetrahydroisoquinoline-3(S)-carboxamide
N-Boc-L-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (Bachem) was coupled with 2,3-dimethyl aniline using standard peptide coupling procedures. The product was deprotected using TFA in CH2Cl2 to give the title compound.

reactant | N-Boc-L-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | CC(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)O | C15H19NO4
reactant | 2,3-dimethyl aniline | CC1=C(N)C=CC=C1C | C8H11N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(2,3-dimethylphenyl) 1,2,3,4-tetrahydroisoquinoline-3(S)-carboxamide | CC1=C(C=CC=C1C)NC(=O)[C@H]1NCC2=CC=CC=C2C1 | C18H20N2O
